US07863305B2
Using the procedure described in Tetrahedron 56 (2000) 5479-5492, indole (5.0 g, 42.7 mmole) and 2,2-dimethyl-[1,3]dioxane-4,6-dione (6.15 g, 42.7 mmole) were mixed in acetonitrile (50 ml). To this mixture was added benzaldehyde (9.06 g, 85.4 mmole) and d,l-proline (0.25 g). The mixture was stirred at room temperature for 18 hours after which time much of the reaction mixture had turned solid. The solvent was evaporated at reduced pressure and the residue was triturated with ether and filtered. The filter cake was washed with several portions of ether to afford pure 5-[(1H-indol-3-yl)-phenyl-methyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione, 11.83 g, as a light pink solid (MS (M−H)=348) which was used without further purification in the next step.

reactant | indole | 42.7 mmole, 5.0 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 2,2-dimethyl-[1,3]dioxane-4,6-dione | 42.7 mmole, 6.15 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | benzaldehyde | 85.4 mmole, 9.06 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | d,l-proline | 0.25 g | N1C(C(=O)O)CCC1 | C5H9NO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 5-[(1H-indol-3-yl)-phenyl-methyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione | N1C=C(C2=CC=CC=C12)C(C1C(OC(OC1=O)(C)C)=O)C1=CC=CC=C1 | C21H19NO4
